US06284748B1
To a solution of 2-(hydroxymethyl)-1,3-propanediol (9.4 mmol) in dichloromethane (20 mL) and pyridine (7.5 mL) at 0° C. was added methyl chloroformate (9.4 mmol) slowly. The resulting solution was warmed to room temperature and stirred for 16 h. The reaction was concentrated under reduced pressure and chromatographed by eluting with methanol-dichloromethane (1:4) to give 650 mg of 2-(methoxycarbonyloxymethyl)-1,3-propanediol.

reactant | 2-(hydroxymethyl)-1,3-propanediol | 9.4 mmol | OCC(CO)CO | C4H10O3
reactant | methyl chloroformate | 9.4 mmol | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 7.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(methoxycarbonyloxymethyl)-1,3-propanediol | 650 mg | COC(=O)OCC(CO)CO | C6H12O5
